US03932661
3,4-Dichlorobenzoic acid phenylhydrazide
A mixture consisting of 71.8 g. (0.35 mole) methyl 3,4-dichlorobenzoate, 37.9 g. (0.35 mole) phenylhydrazine, 21.6 g. (0.40 mole) sodium methoxide, and 175 ml. methanol was heated at the reflux temperature for 22 hrs. After cooling the reaction mixture to about 25°C., it was poured into 500 ml. water. The aqueous mixture was filtered and the solids that collected on the filter were dissolved in 500 ml. ethanol. Refrigeration caused crystals to form which were recovered by filtration. There was thus obtained 3,4-dichlorobenzoic acid phenylhydrazide melting at 169° to 172°C. An analytical sample melting at 171.5° to 173° C. was obtained by recrystallization from ethanol.

reactant | methyl 3,4-dichlorobenzoate | 0.35 mole | ClC=1C=C(C(=O)OC)C=CC1Cl | C8H6Cl2O2
reactant | phenylhydrazine | 0.35 mole | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium methoxide | 0.40 mole | C[O-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 3,4-Dichlorobenzoic acid phenylhydrazide | C1(=CC=CC=C1)N(N)C(C1=CC(=C(C=C1)Cl)Cl)=O | C13H10Cl2N2O
